US08609688B2
3-(3-[4-(1-Aminocyclobutyl)phenyl]-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-2-yl)pyridin-2-amine trihydrochloride
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (29.0 mg, 0.0449 mmol) was dissolved in DCM (1 mL). 4M HCl/dioxane (1 mL) was added to the mixture and stirred at room temperature for 2 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (27.9 mg, 94.7%) as pale yellow solid.

reactant | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.0449 mmol, 29.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2C[C@H](O[C@H](C2)C)C)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C38H43N7O3
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-[4-(1-Aminocyclobutyl)phenyl]-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-2-yl)pyridin-2-amine trihydrochloride | 27.9 mg, 94.7% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2C[C@H](O[C@H](C2)C)C)C=2C(=NC=CC2)N | InChI=1S/C33H35N7O.3ClH/c1-21-19-39(20-22(2)41-21)26-7-3-6-23(18-26)28-13-14-29-32(37-28)40(31(38-29)27-8-4-17-36-30(27)34)25-11-9-24(10-12-25)33(35)15-5-16-33;;;/h3-4,6-14,17-18,21-22H,5,15-16,19-20,35H2,1-2H3,(H2,34,36);3*1H/t21-,22+;;;
